US07585868B2
Synthesis of 1-(cyclopropylmethyl)-3-(naphthalen-2-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (ZK165).
3-(naphthalen-2-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (50 mg, 0.21 mmol) was dissolved in DMF (1.5 mL) and K2CO3 (110 mg, 0.8 mmol) and cyclopropyl methyl bromide (22 μL, 0.25 mmol) were added. The reaction was heated to 60° C. overnight, then cooled to RT and poured into water (30 mL). The precipitate was collected by filtration. ESI-MS (M+H)+ m/z calcd 316.2, found 316.2.

reactant | 3-(naphthalen-2-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.21 mmol, 50 mg | C1=C(C=CC2=CC=CC=C12)C1=NNC2=NC=NC(=C21)N | C15H11N5
reactant | K2CO3 | 0.8 mmol, 110 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | cyclopropyl methyl bromide | 0.25 mmol, 22 μL | C1(CC1)CBr | C4H7Br
reactant | water | 30 mL | O | H2O
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 1-(cyclopropylmethyl)-3-(naphthalen-2-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | C1(CC1)CN1N=C(C=2C1=NC=NC2N)C2=CC1=CC=CC=C1C=C2 | C19H17N5
